US08119648B2
1-[2-(2-methoxy-phenyl)-2-oxo-ethyl]-3-methyl-7-(3-methyl-2-buten-1-yl)-8-chloro-xanthine
1.71 g of 2-bromo-1-(2-methoxy-phenyl)-ethanone are added to a mixture of 2.00 g of 3-methyl-7-(3-methyl-2-buten-1-yl)-8-chloro-xanthine and 1.38 mg of potassium carbonate in 15 ml of N,N-dimethylformamide. The reaction mixture is stirred for eight hours at ambient temperature. After aqueous working up the crude product is purified by chromatography through a silica gel column with cyclohexane/ethyl acetate (8:1 to 8:1) as eluant.

reactant | 2-bromo-1-(2-methoxy-phenyl)-ethanone | 1.71 g | BrCC(=O)C1=C(C=CC=C1)OC | C9H9BrO2
reactant | 3-methyl-7-(3-methyl-2-buten-1-yl)-8-chloro-xanthine | 2.00 g | CN1C(NC(C=2N(C(=NC12)Cl)CC=C(C)C)=O)=O | C11H13ClN4O2
reactant | potassium carbonate | 1.38 mg | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | 1-[2-(2-methoxy-phenyl)-2-oxo-ethyl]-3-methyl-7-(3-methyl-2-buten-1-yl)-8-chloro-xanthine | COC1=C(C=CC=C1)C(CN1C(=O)N(C=2N=C(N(C2C1=O)CC=C(C)C)Cl)C)=O | C20H21ClN4O4
